US06696473B2
B. Preparation of N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]phenyl}succinamic Acid
To a 25 mL flask was added 2-(3-aminophenylimino)-3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)thiazolidine-4-one (100 mg, 225 μmol), anhydrous DCM (5 mL) and CHCl3 (3 mL). To the solution was added succinic anhydride (23 mg, 239 μmol). The reaction solution was allowed to stir at 50° C. for 1.5 h. The white precipitates were collected by filtration under reduced pressure, washed with DCM (10 mL) and hexanes (20 mL), and then dried under vacuum to give the title compound (75 mg, 61%). MS(ESI): 545 (MH+).

reactant | 2-(3-aminophenylimino)-3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)thiazolidine-4-one | 225 μmol, 100 mg | NC=1C=C(C=CC1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=C1SC2=C(N1C)C=CC=C2 | C24H20N4OS2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
reactant | succinic anhydride | 239 μmol, 23 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]phenyl}succinamic Acid | 75 mg, 61% | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC=2C=C(C=CC2)NC(CCC(=O)O)=O | C28H24N4O4S2
